US04472316
3.72 g of ethyl 2-acetylthio-3-(4-phenoxybenzoyl)propionate were dissolved in 30 ml of ethanol, then 3 ml of distilled water and 1.2 ml of concentrated sulfuric acid were added, and the mixture was refluxed for 4 hours. The ethanol was removed by evaporation under reduced pressure. Diethyl ether was added to the residue, which was washed with water and dried over magnesium sulfate. The diethyl ether was distilled off and the residue was purified first by silica gel column chromatography, eluted with a mixture of hexane and diethyl ether, then by recrystallization from a mixture of hexane and diethyl ether to give 2.71 g of ethyl 2-mercapto-3-(4-phenoxybenzoyl)propionate.

reactant | ethyl 2-acetylthio-3-(4-phenoxybenzoyl)propionate | 3.72 g | C(C)(=O)SC(C(=O)OCC)CC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C20H20O5S
reactant | water | 3 ml | O | H2O
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 2-mercapto-3-(4-phenoxybenzoyl)propionate | 2.71 g | SC(C(=O)OCC)CC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C18H18O4S
